US09145413B2
a. 4-Iodo-1-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1H-pyrazole (Intermediate 113a)
To a mixture of 4-iodo-1H-pyrazole (2.0 g, 10.3 mmol) and Cs2CO3 (5.04 g, 15.5 mmol) in MeCN (28 mL) was added 2-(3-bromopropoxy)tetrahydro-2H-pyran (1.84 mL, 10.8 mmol) and the mixture stirred overnight. The crude reaction mixture was poured into water and extracted with EtOAc (×3). The combined organic layers were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by FCC on silica, using a gradient of 0-80% EtOAc in cyclohexane, to give the title compound (2.95 g, 81%). 1H NMR (300 MHz, CDCl3): 150-1.58 (4H, m), 1.65-1.90 (2H, m), 2.12 (2H, qn, J=6.4 Hz), 3.35 (1H, dt, J=10.2, 5.9 Hz), 3.46-3.54 (1H, m), 3.73 (1H, dt, J=10.2, 5.9 Hz), 3.80-3.88 (1H, m), 4.26 (2H, td, J=6.9, 1.5 Hz), 4.54 (1H, dd, J=4.5, 3.1 Hz), 7.46 (1H, s), 7.50 (1H, s).

reactant | 4-iodo-1H-pyrazole | 10.3 mmol, 2.0 g | IC=1C=NNC1 | C3H3IN2
reactant | Cs2CO3 | 15.5 mmol, 5.04 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 10.8 mmol, 1.84 mL | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | water | O | H2O
solvent | MeCN | 28 mL | CC#N | C2H3N
product | 4-Iodo-1-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1H-pyrazole | 2.95 g, 81% | IC=1C=NN(C1)CCCOC1OCCCC1 | C11H17IN2O2
